US06034239
(E)-(4-bromo-1,6,7,8-tetrahydro-2H-indeno[5,4-b]furan-8-ylidene)acetonitrile
60% Sodium hydride (0.17 g, 4.35 mmols) was added to a tetrahydrofuran (20 ml) solution of diethyl cyanomethylphosphonate (0.77 g, 4.35 mmols) while cooling with ice, and the mixture was stirred for 20 minutes. To this was added a tetrahydrofuran (10 ml) solution of 4-bromo-1,2,6,7-tetrahydro-8H-indeno[5,4-b]furan-8-one (1.00 g, 3.95 mmols), and the mixture was stirred at room temperature further for 2 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was washed with a saturated saline solution, then dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified through silica-gel column chromatography (hexane/ethyl acetate=from 85/15 to 8/2) and then recrystallized from ethyl acetate/isopropyl ether to obtain 0.47 g (yield: 43%) of the target compound.

reactant | Sodium hydride | 4.35 mmols, 0.17 g | [H-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | diethyl cyanomethylphosphonate | 4.35 mmols, 0.77 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 4-bromo-1,2,6,7-tetrahydro-8H-indeno[5,4-b]furan-8-one | 3.95 mmols, 1.00 g | BrC1=CC=2CCC(C2C2=C1OCC2)=O | C11H9BrO2
solvent | Water | O | H2O
product | (E)-(4-bromo-1,6,7,8-tetrahydro-2H-indeno[5,4-b]furan-8-ylidene)acetonitrile | 0.47 g, yield: 43% | BrC1=CC=2CC/C(/C2C2=C1OCC2)=C\C#N | C13H10BrNO
